US07951815B2
8-(2,4-Dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one (300 mg, 0.8 mmol) was dissolved in ethyl methyl ketone (2 ml), treated with water (8 μL) and TMSCl (106 μL) and stirred overnight. The solid was filtered off and dried in vacuo. The product 8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 320 mg (97%).

reactant | 8-(2,4-Dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one | 0.8 mmol, 300 mg | COC1=C(C(=O)N2CCC3(N[C@H](C(N3)=O)CCSC)CC2)C=CC(=C1)OC | C19H27N3O4S
reactant | water | 8 μL | O | H2O
reactant | TMSCl | 106 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 2 ml | CC(=O)CC | C4H8O
product | 8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.COC1=C(C(=O)N2CCC3(N[C@H](C(N3)=O)CCSC)CC2)C=CC(=C1)OC | InChI=1S/C19H27N3O4S.ClH/c1-25-13-4-5-14(16(12-13)26-2)18(24)22-9-7-19(8-10-22)20-15(6-11-27-3)17(23)21-19;/h4-5,12,15,20H,6-11H2,1-3H3,(H,21,23);1H/t15-;/m0./s1
